US04582851
1-[[2-(dimethylamino)ethyl]amino]-4-nitro-9H-thioxanthen-9-one
A solution of 9.3 g (0.105 mole) of N,N-dimethylethylenediamine in 35 ml of xylene was added dropwise over ten minutes to a stirred mixture of 1-chloro-4-nitrothioxanthone (24.5 g, 0.084 mole) and K2CO3 (12.2 g, 0.088 mole) in 350 ml of xylene. The mixture was heated for one hour at 70°, an additional 1.8 g (0.088 mole) of N,N-dimethylethylendiamine was added, and heating was continued for an additional hour. The mixture was cooled and the solid was collected, washed with cold xylene, petroleum ether, dried, triturated with water, and dried in vacuo at 70° to give the product (24.7 g) as a yellow solid, mp 177°-179°.

reactant | N,N-dimethylethylenediamine | 0.105 mole, 9.3 g | CN(CCN)C | C4H12N2
reactant | 1-chloro-4-nitrothioxanthone | 0.084 mole, 24.5 g | ClC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)[N+](=O)[O-] | C13H6ClNO3S
reactant | K2CO3 | 0.088 mole, 12.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-dimethylethylendiamine | 0.088 mole, 1.8 g | CN(CCN)C | C4H12N2
solvent | xylene | 35 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 350 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-[[2-(dimethylamino)ethyl]amino]-4-nitro-9H-thioxanthen-9-one | 24.7 g | CN(CCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)[N+](=O)[O-])C | C17H17N3O3S
